US04626505
Tubes containing assay mix were temperature equilibrated at 30° prior to addition of permeabilized cells to start each reaction. Reactions were stopped by addition of 0.1 mL 6N H2SO4 or 0.1 mL 2.5N NaOH. The tubes were heated for 15 minutes at 55° and then 0.4 mL of 0.5% creatine was added. followed by 0.4 mL of 4% α-naphthol in 2.5 N NaOH, with vigorous mixing after each addition. The tubes were heated again at 55° C. for 5 minutes and centrifuged to remove precipitate. Optical density at 530 nm was then determined. This assay measures acetoin. Acetolactate formed by enzymatic reaction is converted to acetoin by acidification in reactions stopped with H2SO4. Thus the difference in OD530 readings of acid-stopped and base-stopped reactions is a measure of acetolactate formation over background acetoin formation.

reactant | H2SO4 | 6N, 0.1 mL | OS(=O)(=O)O | H2O4S
reactant | creatine | 0.4 mL | O=C(O)CN(C)C(N)=N | C4H9N3O2
reactant | α-naphthol | 0.4 mL | C1(=CC=CC2=CC=CC=C12)O | C10H8O
solvent | NaOH | 2.5 N | [OH-].[Na+]
solvent | NaOH | 2.5N, 0.1 mL | [OH-].[Na+]
product | Acetolactate | CC(C(=O)O)OC(=O)C | C5H8O4
